US04886817
To 150 ml of a mixture of tetrahydrofuran-diglyme (2:15) were added 12 g of 1-phenyl-8-(2-tetrahydropyranyloxy)-1-octyne and 3.35 g of lithium aluminum hydride. The mixture was heated and tetrahydrofuran was distilled off until the inner temperature became 120° C. After heating under reflux at the same temperature for 1 hour, the mixture was ice-cooled. Ice was added to the mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with 10% hydrochloric acid, water, sodium hydrogen carbonate solution, saline water in the order mentioned, dried, and then the solvent was distilled off. The residue was dissolved in 250 ml of methanol and 1.1 g of p-toluenesulfonic acid was added thereto. The mixture was stirred at room temperature for 1 hour and 2 ml of triethylamine was added to the mixture. Methanol was distilled off and the residue was purified by silica gel column chromatorgraphy (solvent: hexane-ethyl acetate=3:1) to give 7.5 g of (E)-8-phenyl-7-octen- 1-ol as an oily substance.

reactant | 1-phenyl-8-(2-tetrahydropyranyloxy)-1-octyne | 12 g | C1(=CC=CC=C1)C#CCCCCCCOC1OCCCC1 | C19H26O2
reactant | lithium aluminum hydride | 3.35 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran diglyme | O1CCCC1.COCCOCCOC
product | (E)-8-phenyl-7-octen- 1-ol | 7.5 g, Yield: 87.6% | C1(=CC=CC=C1)/C=C/CCCCCCO | C14H20O
